US04451462
A mixture of 18.2 g (0.1 mole) of 4-methyl-3-(3-oxobutyl)-maleic acid anhydride and 20.3 g (0.105 mole) of pyrrolidinium benzoate in 400 ml of benzene is heated under reflux for 24 hours using a water separator. The benzene is then removed in vacuo and the residue that remains is partitioned between methylene chloride and saturated sodium bicarbonate solution. The crude product remaining after drying and after removal of the methylene chloride is chromatographed over silica gel with petroleum ether/ether. Subsequent recrystallisation from ether. Subsequent recrystallisation from ether/petroleum ether yields 3-methyl-6-(pyrrolidin-1-yl)-benzofuran-2(3H)-one having a melting point of 101°-103° C.

reactant | pyrrolidinium benzoate | 0.105 mole, 20.3 g | C(C1=CC=CC=C1)(=O)[O-].[NH2+]1CCCC1
reactant | water | O | H2O
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-6-(pyrrolidin-1-yl)-benzofuran-2(3H)-one | CC1C(OC2=C1C=CC(=C2)N2CCCC2)=O | C13H15NO2
